US03931407
3-(4-Acetoxy-3-carboxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole ##SPC57##
A mixture of 26.2 g. (0.069 mole) of 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole and 204 g. of acetic anhydride was stirred at 75° for 4 hours, cooled, treated with 34 g. of water, stirred for several hours until a solution formed, and allowed to stand overnight. The solid which separated was collected, washed with acetic acid and petroleum ether, and dried to provide 26.7 g. (91%) of crystals, m.p. 194°-196°.

reactant | 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole | 0.069 mole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3 | C25H19NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 3-(4-Acetoxy-3-carboxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole | C(C)(=O)OC1=C(C=C(C=C1)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3)C(=O)O | C27H21NO4
